US07456186B2
Preparation of 1-(3-Bromophenyl)-1-(imidazol-2-yl)-1-[4-(trifluoromethoxy)phenyl]methanol
A mixture of magnesium (0.644 g, 87.7 mmol) in THF (13 mL) at 50° C. is treated dropwise with a solution of 1-bromo-4-(trifluoromethoxy)benzene (6.32 g, 26.2 mmol) in THF over a period of 5 min, stirred at 50° C. for an additional 1.5 h, cooled to room temperature, treated with copper(I) iodide (0.041 g, 0.215 mmol) and a solution of 2-(3-bromobenzoyl)-1H-imidazole (2.60 g, 10.4 mmol) in THF, heated at 65° C. overnight, cooled to room temperature and diluted with a 1:1:1 mixture of ethyl acetate, water and saturated aqueous ammonium chloride. The phases are separated and the aqueous phase is extracted with ethyl acetate. The combined organic extracts are dried over sodium sulfate, filtered and concentrated. The resultant residue is purified by flash chromatography (silica, 85:15 to 75:25 hexanes/ethyl acetate as eluent) affords the title product as a yellow solid, 3.47 g (81% yield), identified by NMR and mass spectral analyses. 1H NMR (500 MHz, CDCl3) δ 8.98 (br s, 1H), 7.55 (t, J=1.6 Hz, 1H), 7.45 (dt, J=8.1, 1.9 Hz, 1H), 7.37-7.34 (m, 2H), 7.24-7.20 (m, 2H), 7.18 (d, J=8.1 Hz, 2H), 7.07 (br s, 1H), 6.98 (br s, 1H), 4.30 (br s, 1H); ESI MS m/z 412 [C17H12BrF3N2O2+H]+.

reactant | magnesium | 87.7 mmol, 0.644 g | [Mg] | Mg
reactant | 1-bromo-4-(trifluoromethoxy)benzene | 26.2 mmol, 6.32 g | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
reactant | 2-(3-bromobenzoyl)-1H-imidazole | 10.4 mmol, 2.60 g | BrC=1C=C(C(=O)C=2NC=CN2)C=CC1 | C10H7BrN2O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | copper(I) iodide | 0.215 mmol, 0.041 g | [Cu]I
product | 1-(3-Bromophenyl)-1-(imidazol-2-yl)-1-[4-(trifluoromethoxy)phenyl]methanol | 81% yield | BrC=1C=C(C=CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C=1NC=CN1 | C17H12BrF3N2O2
